US06040309
Ethyl 3-chloro-6-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)benzo[b]thiophene-2-carboxylate
1H-Imidazo[4,5-c]pyridine (536 mg, 4.5 mmol) was added in portions to a stirred suspension of sodium hydride (144 mg of 60% dispersion in mineral oil, 3.6 mmol) in anhydrous dimethylformamide (5 ml) at 0° C., under a nitrogen atmosphere. After 40 minutes, ethyl 6-bromomethyl-3-chlorobenzo[b]thiophene-2-carboxylate (Preparation 10, 1 g, 3 mmol) was added. After 20 hours the mixture was partitioned between ethyl acetate and water. The organic layer was separated and washed with more water, dried (magnesium sulfate), and evaporated under reduced pressure. The residue was flash chromatographed on silica gel using 5% methanol in dichloromethane as eluant The fractions containing the less polar product (first isomer eluted from the chromatography column) were evaporated under reduced pressure to give the title compound as a colourless solid (160 mg).

reactant | 1H-Imidazo[4,5-c]pyridine | 4.5 mmol, 536 mg | N1C=NC=2C=NC=CC21 | C6H5N3
reactant | sodium hydride | 3.6 mmol, 144 mg | [H-].[Na+]
reactant | ethyl 6-bromomethyl-3-chlorobenzo[b]thiophene-2-carboxylate | 3 mmol, 1 g | BrCC=1C=CC2=C(SC(=C2Cl)C(=O)OCC)C1 | C12H10BrClO2S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-chloro-6-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)benzo[b]thiophene-2-carboxylate | 160 mg | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)CN2C=NC1=C2C=NC=C1 | C18H14ClN3O2S
